US07683195B2
Sodium hydroxide (0.4 g) was dissolved in water (10 mL), and methyl isobutyrylacetate (1.44 g: made by Fluka) was added and this was agitated for six hours at room temperature. The reaction product was washed with ether, then 10% dilute sulfuric acid (4.9 g) was added and the mixture was extracted with ether. The ether extract was dried by adding excess anhydrous sodium sulfate, and the anhydrous sodium sulfate was removed by filtration. The ether was then removed with a rotary evaporator, yielding isobutyrylacetic acid (yield 1 g).

reactant | Sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | methyl isobutyrylacetate | 1.44 g | C(C(C)C)(=O)CC(=O)OC | C7H12O3
solvent | water | 10 mL | O | H2O
product | isobutyrylacetic acid | yield 1 g | C(C(C)C)(=O)CC(=O)O | C6H10O3
